US09238640B2
To a solution of 2-amino-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester (1.04 g, 4.19 mmol) in a mixture of THF (8 mL) and methanol (5 mL) was added lithium hydroxide (0.36 g), followed by water (3 mL). The reaction mixture was stirred at room temperature overnight, and then refluxed for 4 hours. After cooling to room temperature, the was solvent concentrated. The pH was adjusted to approximately 5 with 2 N aqueous hydrochloric acid and the residue was evaporated to dryness to give 2-amino-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid as a chloride salt. Yield: 1.84 g. The crude material was used in the next step without further purification.

reactant | 2-amino-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid methyl ester | 4.19 mmol, 1.04 g | COC(C1=C(C=CC(=C1)CCN1CCCC1)N)=O | C14H20N2O2
reactant | lithium hydroxide | 0.36 g | [OH-].[Li+]
reactant | water | 3 mL | O | H2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 2-amino-5-(2-pyrrolidin-1-yl-ethyl)-benzoic acid | NC1=C(C(=O)O)C=C(C=C1)CCN1CCCC1 | C13H18N2O2
